US07227032B2
To a flask having an inner volume of 25 ml and equipped with a stirring device and a thermometer were charged 2.10 g (10 mmol) of 5-amino-1-(2-hydroxyethyl)-4-nitrosopyrazole hydrochloride with a purity of 91.6% by weight synthesized in the same manner as in Example 4, 3.5 ml of water and 0.5 ml of isopropyl alcohol. Then, 1 ml (16 mmol) of 28% aqueous ammonia was gradually added dropwise to the mixture, and the resulting mixture was reacted for 30 minutes while maintaining the liquid temperature to 5° C. or lower. After completion of the reaction, precipitated crystals were collected by filtration. Then, the crystals were washed with 1 ml of cold water and 1 ml of cold isopropyl alcohol, and then dried at 40° C. under reduced pressure to obtain 1.13 g of 5-amino-1-(2-hydroxyethyl)-4-nitrosopyrazole (Isolation yield: 72.0%) as reddish orange crystal with a purity of 99.7% by weight (absolute calibration curve method by high performance liquid chromatography).

reactant | 5-amino-1-(2-hydroxyethyl)-4-nitrosopyrazole hydrochloride | 10 mmol, 2.10 g | Cl.NC1=C(C=NN1CCO)N=O
reactant | water | 3.5 ml | O | H2O
reactant | ammonia | 16 mmol, 1 ml | N | H3N
solvent | isopropyl alcohol | 0.5 ml | C(C)(C)O | C3H8O
product | 5-amino-1-(2-hydroxyethyl)-4-nitrosopyrazole | 1.13 g, yield: 72.0% | NC1=C(C=NN1CCO)N=O | C5H8N4O2
